* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADPL42005-3.3.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 4.3
C1 OUT 0 2.2µ Rser=1.5m
Rload OUT 0 6.6
R1 OUT N001 100k
X§U1 IN OUT IN N001 OUT 0 ADPL42005-3.3
.tran 3m startup
.lib ADPL42005-3.3.sub
.backanno
.end
